US07947851B2
Step b) Formation of 7-[(1-{4-[(4-butylphenyl)ethynyl]phenyl}pentyl)oxy]-2,2-dimethyl-4H-1,3-benzodioxin-4-one
A solution of 7-hydroxy-2,2-dimethyl-4H-1,3-benzodioxin-4-one (363 mg, 1.87 mmol, described in J. Chem. Soc., Perkin Trans. 1, 2000, 4265-4278) and tri-n-butylphosphine (378 mg, 1.87 mmol) in anhydrous toluene (10 mL) was chilled at 0° C. To this solution was added N,N,N′,N′-tetramiethylazodicarboxamide (322 mg, 1.87 mmol) at once and the resulting reaction mixture was stirred 10 min at 0° C. Then 1-{4-[(4-butylphenyl)ethynyl]phenyl}-1-pentanol (461.5 mg; 1.44 mmol; 1.0 eq.) was added and the resulting mixture was stirred overnight at rt. The solvent was removed under reduced pressure and the crude mixture was purified by chromatography on silicagel (EtOAc/c-Hex (1/9)) to give 456 mg (64%) of the title compound. HPLC, Rt: 6.2 min (purity: 97.0%). 1H NMR (CDCl3) δ 7.78 (d, J=8.7 Hz, 1H), 7.50 (d, J=8.3 Hz, 2H), 7.42 (d, J=8.2 Hz, 2H), 7.29 (d, J=8.3 Hz, 2H), 7.15 (d, J=8.3 Hz, 2H), 6.61 (dd, J=2.4 Hz, J=9.0 Hz, 1H), 6.29 (d, J=2.3 Hz, 1H), 5.16-5.07 (m, 1H), 2.61 (t, J=7.8 Hz, 2H), 2.08-1.93 (m, 1H), 1.91-1.75 (m, 1H), 1.73-1.24 (m, 14H), 0.98-0.84 (m, 6H).

reactant | 7-hydroxy-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 1.87 mmol, 363 mg | OC=1C=CC2=C(OC(OC2=O)(C)C)C1 | C10H10O4
reactant | tri-n-butylphosphine | 1.87 mmol, 378 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1-{4-[(4-butylphenyl)ethynyl]phenyl}-1-pentanol | 1.44 mmol, 461.5 mg, 1.0 eq. | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(CCCC)O | C23H28O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 7-[(1-{4-[(4-butylphenyl)ethynyl]phenyl}pentyl)oxy]-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 456 mg, 64% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(CCCC)OC=1C=CC2=C(OC(OC2=O)(C)C)C1 | C33H36O4
